US08685418B2
II. N-[2-((4-Isopropylbenzoyl)oxy)propyl]-N,N-dimethylcyclohexanaminium iodide
To a solution of 1-(cyclohexyl(methyl)amino)propan-2-yl 4-isopropylbenzoate (0.5 g, 1.57 mmol) in DCE (5 mL, methyl iodide (0.2 mL, 3.15 mmol) was added. The resultant reaction mixture was stirred at rt for 16 hours. The solvent was evaporated, and the crude product was purified by column chromatography. The product isolated was re-crystallized from methanol/ether. Yield: 134.9 mg (18.65%). 1H NMR (400 MHz, DMSO-d6) δ 7.94-7.92 (d, J=8 Hz, 2 H), 7.43-7.41 (d, J=8 Hz, 2 H), 5.54-5.50 (m, 1 H), 3.95-3.89 (m, 1 H), 3.61-3.58 (d, J=14 Hz, 1 H), 3.40-3.34 (m, 1 H), 3.03-2.95 (m, 7 H), 2.22-2.20 (d, J=11 Hz, 1 H), 2.10-2.07 (d, J=11 Hz, 1 H), 1.86-1.83 (m, 2 H), 1.57-1.43 (m, 3 H), 1.36-1.35 (d, J=6 Hz, 3 H), 1.16-1.11 (m, 9 H). LCMS: m/z=331.8 [M+], RT=3.08 min (Column: Y, Program: P1). UPLC: 99.65% (200 nm), RT 3.09 min (Mobile phase: A. ACN, B. 0.05% HCOOH in water, Column: Gemini® NX C18 (50*4.6 mm) 3μ.

reactant | 1-(cyclohexyl(methyl)amino)propan-2-yl 4-isopropylbenzoate | 1.57 mmol, 0.5 g | C(C)(C)C1=CC=C(C(=O)OC(CN(C)C2CCCCC2)C)C=C1 | C20H31NO2
reactant | methyl iodide | 3.15 mmol, 0.2 mL | CI | CH3I
solvent | DCE | ClCCCl | C2H4Cl2
product | N-[2-((4-Isopropylbenzoyl)oxy)propyl]-N,N-dimethylcyclohexanaminium iodide | [I-].C(C)(C)C1=CC=C(C(=O)OC(C[N+](C2CCCCC2)(C)C)C)C=C1 | InChI=1S/C21H34NO2.HI/c1-16(2)18-11-13-19(14-12-18)21(23)24-17(3)15-22(4,5)20-9-7-6-8-10-20;/h11-14,16-17,20H,6-10,15H2,1-5H3;1H/q+1;/p-1
